US07220862B2
N-(1-Benzyl-piperidin-4-yl)-2-chloro-6-nitro-benzamide
2-Chloro-6-nitro-benzoic acid (1.2 g, 5.97 mmol), 4-amino-1-benzylpiperidine (1.1 mL, 5.97 mmol), 1-hydroxybenzotriazole (0.84 g, 1.05 equiv) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide (1.1 g, 1.05 equiv) were combined in ethyl acetate (20 mL). To this solution was added triethylamine (2.5 mL. 3.0 equiv) and the reaction mixture stirred at 40° C. for 2 h. After cooling to room temperature, the mixture was diluted with ethyl acetate and washed with water (2×), 5% sodium bicarbonate, brine (2×), dried over sodium sulfate, and concentrated to afford 1.9 g (85%) of the desired product.

reactant | 2-Chloro-6-nitro-benzoic acid | 5.97 mmol, 1.2 g | ClC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-amino-1-benzylpiperidine | 5.97 mmol, 1.1 mL | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | 1-hydroxybenzotriazole | 0.84 g, 1.05 equiv | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide | 1.1 g, 1.05 equiv | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 2.5 mL, 3.0 equiv | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(1-Benzyl-piperidin-4-yl)-2-chloro-6-nitro-benzamide | 1.9 g, 85% | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=CC=C1[N+](=O)[O-])Cl)=O | C19H20ClN3O3
